US05070207
A. 1-Fluoro-4-(4-pentynyloxy) benzene
To a suspension of 960 mg (40 mmol) of sodium hydride in 50 mL of dimethyl sulfoxide is added 4.48 g (40 mmol) of 4-fluorophenol. The mixture is stirred until hydrogen evolution has ceased and then 4.10 g (40 mmol, 4.24 mL) of 5-chloro-1-pentyne is added. The mixture is heated to 65° C. for 1 hour, is diluted with water and is extracted with hexane. The hexane extract is washed with 2.5M aqueous sodium hydroxide and saturated brine and is dried over magnesium sulfate. The dried solution is filtered and rotoevaporated to give 7.1 g (99%) of title compound. IR: (film) 3310, 1508 cm-1 ; 1H NMR (CDCl3): δ1.97 (1H, t, J=3 Hz), 1.99 (2H, p, J=6 Hz), 2.40 (2H, dt, J=3, 7 Hz), 4.03 (2H, t, J=6 Hz), 6.84 (2H, m) and 6.96 (2H, t, J=8 Hz).

reactant | sodium hydride | 40 mmol, 960 mg | [H-].[Na+]
reactant | 4-fluorophenol | 40 mmol, 4.48 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | hydrogen | [H][H] | H2
reactant | 5-chloro-1-pentyne | 40 mmol, 4.24 mL, 4.10 g | ClCCCC#C | C5H7Cl
solvent | dimethyl sulfoxide | 50 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1-Fluoro-4-(4-pentynyloxy) benzene | 7.1 g, 99% | FC1=CC=C(C=C1)OCCCC#C | C11H11FO
